US07902181B2
A mixture of N,N,N-trimethylhexadecan-1-aminium bromide (15.76 g), 4-bromobenzaldehyde (80 g) and 2,2-dimethyl-1,3-dioxane-4,6-dione (68.6 g) was heated and stirred at 60° C. for 1 h, during which time a solid precipitated from solution. The mixture was allowed to cool to room temperature. The solid was collected by filtration and washed with cold water (600 mL). dried in vacuo at 50° C. to give 5-(4-bromobenzylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione (108 g) as a colourless solid.

reactant | 4-bromobenzaldehyde | 80 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 68.6 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
catalyst | N,N,N-trimethylhexadecan-1-aminium bromide | 15.76 g | [Br-].C[N+](CCCCCCCCCCCCCCCC)(C)C
product | 5-(4-bromobenzylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 108 g | BrC1=CC=C(C=C2C(OC(OC2=O)(C)C)=O)C=C1 | C13H11BrO4
